US07811499B2
Synthesis of the endgroup 4-fluoro-4′-(phenylethynyl)benzophenone (Structure XV):
In an inert atmosphere glovebox, 4-bromo-4′-fluorobenzophenone (10 g, 35.8 mmol), PdCl2(PPh3)2 (250 mg), CuI (680 mg), phenylacetylene (4.02 g, 1.1 eq), triethylamine (3.6 g, 1 eq), and toluene (25 mL) were combined. The flask was closed and heated to 70° C. for 24 h. The mixture was poured over ice and extracted with methylene chloride, which was separated and evaporated. The residue was recrystallized twice from hot ethanol using decolorizing charcoal to give the title product as white crystals.

reactant | 4-bromo-4′-fluorobenzophenone | 35.8 mmol, 10 g | BrC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8BrFO
reactant | phenylacetylene | 4.02 g, 1.1 eq | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 3.6 g, 1 eq | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 250 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 680 mg | [Cu]I
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-fluoro-4′-(phenylethynyl)benzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)C#CC2=CC=CC=C2)C=C1 | C21H13FO
